US05773530
To a solution of 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (2 g) in dichloromethane (20 ml) was added in turn 2,2-dimethyl-1,3-dioxane-4,6-dione (750 mg), 1,3-dicyclohexylcarbodiimide (1.1 g) and 4-dimethylaminopyridine (720 mg) at 0° C. A reaction mixture was allowed to warm to ambient temperature and stirred for overnight. Precipitate was removed by filtration, and mother liquor was washed with 1N-aqueous hydrochloric acid and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was dissolved in a mixture of acetic acid (15 ml) and water (15 ml), and which was refluxed for 10 hours. A reaction mixture was extracted with ethyl acetate (200 ml) and organic layer was separated, which was neutralized with saturated sodium hydrogen carbonate in water. Organic phase was separated, washed in turn with saturated sodium hydrogen carbonate in water (50 ml) and brine (50 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (100 g) eluting in turn with 33%, 50%, 80% ethyl acetate in n-hexane and ethyl acetate to give 3-[2-{2-(2-oxopropyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.5 g).

reactant | 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 2 g | C(=O)(O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H22N4O3
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 750 mg | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 1,3-dicyclohexylcarbodiimide | 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 720 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
product | 3-[2-{2-(2-oxopropyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.5 g | O=C(CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C26H24N4O2
